US09212182B2
A RBF was charged with 2,3-dichloro-6-methoxypyridine (4.84 g, 27.2 mmol, Accel Pharmtech), DCM (40.0 ml), AcOH (40.0 ml), and sulfuric acid (0.797 ml, 14.95 mmol) to give a clear solution. N-iodosuccinimide (6.12 g, 27.2 mmol) was added in one portion to give a maroon-colored solution. The reaction was stirred for three hours at RT. The mixture was diluted with ethyl acetate, washed with water, washed with 10% aq. sodium thiosulfate, washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (80-g Redi-Sep Gold column, 0-15% Et20/Heptane) to afford 2,3-dichloro-5-iodo-6-methoxypyridine (6.29 g, 20.70 mmol, 76% yield) as a white solid. m/z (ESI) 304.0 (M+H)+.

reactant | 2,3-dichloro-6-methoxypyridine | 27.2 mmol, 4.84 g | ClC1=NC(=CC=C1Cl)OC | C6H5Cl2NO
reactant | DCM | 40.0 ml | C(Cl)Cl | CH2Cl2
reactant | sulfuric acid | 14.95 mmol, 0.797 ml | S(O)(O)(=O)=O | H2O4S
reactant | N-iodosuccinimide | 27.2 mmol, 6.12 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | AcOH | 40.0 ml | CC(=O)O | C2H4O2
product | 2,3-dichloro-5-iodo-6-methoxypyridine | 20.70 mmol, 6.29 g, 76% yield | ClC1=NC(=C(C=C1Cl)I)OC | C6H4Cl2INO
